US04025622
1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(benzothiazol-2-yl)-2-thiourea
To 10 ml of anhydrous xylene were added 390 mg (1 mmol) of 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate and 150 mg (1 mmol) of 2-aminobenzothiazole (MW 150) and the mixture was heated at 110° C. for 40 minutes and allowed to cool to room temperature. Crystals formed were filtered off and recrystallized from methanol to give colourless needles melting between 179° and 181° C. (uncorrected). Yield: 230 mg (42%).

reactant | 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate | 1 mmol, 390 mg | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=C=S | C15H19NO9S
reactant | 2-aminobenzothiazole | 1 mmol, 150 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(benzothiazol-2-yl)-2-thiourea | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)NC(=S)NC=1SC2=C(N1)C=CC=C2 | C22H25N3O9S2
